************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_425Lib
* Top Cell Name: dff
* View Name:     schematic
* Netlisted on:  Feb 26 14:05:56 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    transmission
* View Name:    schematic
************************************************************************

.SUBCKT transmission A Z g gb
*.PININFO g:I gb:I A:B Z:B
MM1 A g Z vss! NMOS_VTL W=90n L=50n m=1
MM0 A gb Z vdd! PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    dff
* View Name:    schematic
************************************************************************

.SUBCKT dff CLK D Q Qb
*.PININFO CLK:I D:I Q:O Qb:O
XI21 Qb Q / inv
XI13 Qb net1 / inv
XI12 net8 Qb / inv
XI10 clkb clk1 / inv
XI9 CLK clkb / inv
XI3 net4 net3 / inv
XI2 net2 net4 / inv
XI0 D net5 / inv
XI14 net1 net8 clkb clk1 / transmission
XI11 net4 net8 clk1 clkb / transmission
XI4 net3 net2 clk1 clkb / transmission
XI1 net5 net2 clkb clk1 / transmission
.ENDS

